US07504401B2
Trifluoro-methanesulfonic acid benzofuran-4-yl ester was converted to 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran using conditions described in Wang, Y.-C. and Georghiou, P. E., Org. Lett. 4: 2675-78 (2002). The Suzuki coupling of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran to [3-bromo-5-(2-methoxy-pyridine-4-carbonyl)-phenyl]-carbamic acid methyl ester was carried out as described in Example 75 to give [3-benzofuran-4-yl-5-(2-methoxy-pyridine-4-carbonyl)-phenyl]-carbamic acid methyl ester. 1H NMR (400 MHz, CDCl3): δ 9.08 (s, 1H), 8.38 (dd, J=5.2, 0.5 Hz, 1H), 8.29 (t, J=1.6 Hz, 1H), 8.06 (t, J=1.7 Hz, 1H), 7.96 (d, J=2.1 Hz, 1H), 7.75 (t, J=1.6 Hz, 1H), 7.62-7.56 (m, 1H), 7.48-7.42 (m, 2H), 7.29 (dd, J=5.2, 1.3 Hz, 1H), 7.15 (dd, J=2.1, 1.0 Hz, 1H), 7.08 (s, 1H), 3.96 (s, 3H), 3.75 (s, 3H).

reactant | Trifluoro-methanesulfonic acid benzofuran-4-yl ester | O1C=CC2=C1C=CC=C2OS(=O)(=O)C(F)(F)F | C9H5F3O4S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran | CC1(OB(OC1(C)C)C1=CC=CC2=C1C=CO2)C | C14H17BO3
reactant | [3-bromo-5-(2-methoxy-pyridine-4-carbonyl)-phenyl]-carbamic acid methyl ester | COC(NC1=CC(=CC(=C1)C(=O)C1=CC(=NC=C1)OC)Br)=O | C15H13BrN2O4
product | [3-benzofuran-4-yl-5-(2-methoxy-pyridine-4-carbonyl)-phenyl]-carbamic acid methyl ester | COC(NC1=C(C=CC(=C1)C(=O)C1=CC(=NC=C1)OC)C1=CC=CC=2OC=CC21)=O | C23H18N2O5
